US07648989B2
Preparation of [5-Chloro-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester
[5-Amino-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester (680 mg, 2.44 mmol) is dissolved under an atmosphere of argon in 18% aqueous hydrochloric acid (12 ml). After cooling the solution to 0° C., a solution of sodium nitrite (244 mg, 3.54 mmol) in water (6 ml) is added over 15 minutes, taking care that the internal temperature did not rise above 5° C. After 20 minutes at 0° C., the reaction mixture is added to a −10° C. solution of copper(I) chloride (freshly prepared, 725 mg, 7.33 mmol) in water (1.8 ml). After 15 minutes at −10° C., TLC analysis indicated complete conversion. The reaction mixture is diluted with EtOAc and poured in a saturated aqueous NaCl solution. The organic layer is separated, dried over Na2SO4, and concentrated. The residue is purified by FCC (CH2Cl2/MeOH, gradient from 98:2 to 90:10) to afford the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.27 (t, J=7 Hz, 3H), 2.34 (s, 3H), 2.50 (m, 4H), 3.52 (m, 4H), 3.66 (s, 2H), 4.19 (q, J=7 Hz, 2H), 6.59 (s, 1H), 8.11 (s, 1H). ES+−MS: 298.2, 300.1 (Cl) [M+H]+, ES−−MS: 296.2, 298.2 (Cl) [M−H]−.

reactant | [5-Amino-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester | 2.44 mmol, 680 mg | C(C)OC(CC1=CC(=NC=C1N)N1CCN(CC1)C)=O | C14H22N4O2
reactant | sodium nitrite | 3.54 mmol, 244 mg | N(=O)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | hydrochloric acid | 12 ml | Cl | ClH
solvent | water | 6 ml | O | H2O
solvent | water | 1.8 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) chloride | [Cu]Cl
product | [5-Chloro-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=NC=C1Cl)N1CCN(CC1)C)=O | C14H20ClN3O2
